US06727264B1
According to the procedure used for the synthesis of N-(3-{1-[3-(1,2-diphenyl-1H-indol-3-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide, 2-methyl-N-{3-[1-(5-oxo-5-phenylpentyl)-4-piperidinyl]phenyl}propanamide (15.6 mg, 38.2 mmol), and 1-(4-methoxyphenyl)hydrazine hydrochloride (8.00 mg, 0.0458 mmol) provided N-(3-{1-[3-(5-methoxy-2-phenyl-1H-indol-3-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide (3.9 mg, 20%). 1H NMR (400 MHz, CDCl3) δ 8.06 (s, 1H), 7.55 (d, 2H, J=7.4 Hz), 7.43-7.39 (m, 3H), 7.38-7.35 (m, 2H), 7.27-7.19 (m, 3H), 7.08 (d, 1H, J=7.4 Hz), 6.94 (d, 1H, J=7.6 Hz), 6.87 (dd, 1H, J=4.0, 6.6 Hz), 3.88 (s, 3H), 3.80-3.69 (m, 1H), 2.99 (d, 2H, J=11.7 Hz), 2.89 (t, 2H, J=7.3), 2.55-2.39 (m, 4H), 2.02-1.88 (m, 3H), 1.82-1.68 (m, 4H), 1.24 (d, 6H, J=6.9 Hz); ESMS m/e: 510.3 (M+H)+.

reactant | N-(3-{1-[3-(1,2-diphenyl-1H-indol-3-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | C1(=CC=CC=C1)N1C(=C(C2=CC=CC=C12)CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C38H41N3O
reactant | 2-methyl-N-{3-[1-(5-oxo-5-phenylpentyl)-4-piperidinyl]phenyl}propanamide | 38.2 mmol, 15.6 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC(C1=CC=CC=C1)=O)C | C26H34N2O2
reactant | 1-(4-methoxyphenyl)hydrazine hydrochloride | 0.0458 mmol, 8.00 mg | Cl.COC1=CC=C(C=C1)NN
product | N-(3-{1-[3-(5-methoxy-2-phenyl-1H-indol-3-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | 3.9 mg, 20% | COC=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C33H39N3O2
